US09085583B2
In a 50 mL round-bottom flask, under an atmosphere of N2, was added (±)-tert-butyl 1-(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (0.630 g, 1.813 mmol) and THF (30 mL). The solution was cooled to 0° C. then methylmagnesium bromide (2.59 ml, 3.63 mmol) was added and the reaction was slowly warmed to ambient temperature while being monitored by LCMS. The reaction was done in 3 h at ambient temperature. Quenched with 50 mL 1N HCl, 50 mL brine, extracted with EtOAc, dried over Na2SO4, filtered, concentrated to provide (±)-tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate, which was used directly in the following reaction. LRMS (M+H+) m/z: calcd 303.37. found 303.1.

reactant | (±)-tert-butyl 1-(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 1.813 mmol, 0.630 g | CON(C(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)=O)C | C18H25N3O4
reactant | methylmagnesium bromide | 3.63 mmol, 2.59 ml | C[Mg]Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (±)-tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | CC1=C(C=2C(=NC=CC2)N1C(C)C(C)=O)C(=O)OC(C)(C)C | C17H22N2O3
